// Generated for: spectre
// Generated on: Sep 25 17:35:01 2018
// Design library name: Digial
// Design cell name: nand2_tb
// Design view name: schematic_vtc
simulator lang=spectre
global 0 vdd!
parameters w_n=1.5 w_p=1.5
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: Digial
// Cell name: nand2
// View name: schematic
subckt nand2 A B OUT
    P1 (OUT B vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P0 (OUT A vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N2 (net07 B 0 0) ami06N w=2.4u l=600n as=3.6e-12 ad=3.6e-12 ps=7.8u \
        pd=7.8u m=1 region=sat
    N0 (OUT A net07 0) ami06N w=2.4u l=600n as=3.6e-12 ad=3.6e-12 ps=7.8u \
        pd=7.8u m=1 region=sat
ends nand2
// End of subcircuit definition.

// Library name: Digial
// Cell name: nand2_tb
// View name: schematic_vtc
V1 (IN 0) vsource type=dc dc=0
V0 (vdd! 0) vsource type=dc dc=5
I5 (IN IN OUT) nand2
C0 (OUT 0) capacitor c=10p m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc dev=V1 param=dc start=0 stop=5 write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I5:2 I5:1 I5:3 
saveOptions options save=allpub
